US05654299
b. 1-Benzyloxycarbonyl-4-(2-methylthiophenyl)piperidine
A solution of 1-benzyloxycarbonyl-4-hydroxy-4-(2-methylthiophenyl)piperidine (2.89 g) in dichloromethane (80 mL) was treated with 6.2 mL of trifluoroacetic acid followed by 25.7 mL of triethylsilane and stirred for 16 hours. At the end of this period, the volatile material was distilled under reduced pressure and the resulting residue was chromatographed. Elution with 3:1 hexane:ethyl acetate afforded the named material (2.02 g); MS: 342(M+1); NMR: 1.5-1.6 (br, 2), 1.8-1.9 (m, 2), 2.45 (s, 3), 2.8-2.9 (m, 2), 3.1-3.2 (m, 1), 4.3 (br, 2), 5.1 (s, 2), 7.1-7.2 (m, 2), 7.2-7.3 (m, 2), 7.3-7.4 (m, 5).

reactant | 1-benzyloxycarbonyl-4-hydroxy-4-(2-methylthiophenyl)piperidine | 2.89 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)SC)O | C20H23NO3S
reactant | trifluoroacetic acid | 6.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 25.7 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-4-(2-methylthiophenyl)piperidine | 2.02 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC | C20H23NO2S
